### PR TITLE
[Merged by Bors] - refactor(Topology/MetricSpace): remove `Metric.Bounded`

### PR DESCRIPTION
**Pull request by urkud**
Use `Bornology.IsBounded` instead.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Image.lean [hunk 1]
```diff
@@ -773,19 +773,7 @@ theorem image_union_image_compl_eq_range (f : α → β) : f '' s ∪ f '' sᶜ
...
-    · exact ⟨x', h⟩
-  · rintro ⟨x', h⟩
-    by_cases hx : x' = x
-    · left
-      rw [← h, hx]
-    · right
-      refine' ⟨_, _, h⟩
-      rw [mem_compl_singleton_iff]
-      exact hx
+  rw [← image_insert_eq, insert_eq, union_compl_self, image_univ]
```
Comment (PatrickMassot) [inline Mathlib/Data/Set/Image.lean:776]: This is unrelated to this PR. But I'm pointing it out only as a review proof.

**Review by PatrickMassot — COMMENTED** [review]
bors merge
